US06559145B2
Ethyl 7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate [Y.3].
In a 3-necked round-bottom connected to a Dean-Stark trap, a solution of 2-amino-5-iodopyridine (Preparation 1, 500 mg) and diethyl ethoxymethylenemalonate (0.92 mL) is heated at 130° C. for 2 h. The reaction is cooled to room temperature. Diphenyl ether (5 mL) is added and the reaction is heated at 250° C. for 1 h. Upon cooling the mixture to room temperature, a solid precipitates and is filtered and washed with hexanes. The crude solid is adsorbed onto silica and chromatographed eluting with CH2Cl2 (2 L). Product-containing fractions are combined and concentrated to afford a solid. The crude product is recrystallized from CH2Cl2/hexanes to yield 251 mg (32%) of the title compound as a yellow solid. Physical characteristics: m.p. 166-168° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.24, 8.85, 8.38, 7.62, 4.27, 1.30; IR (drift) 1747, 1611, 1558, 1506, 1473, 1355, 1345, 1291, 1266, 1258, 1152, 1140, 1118, 840, 796 cm−1; MS (ESI+) m/z 345; Anal. found: C, 38.37; H, 2.48; N, 8.11.

reactant | 2-amino-5-iodopyridine | 500 mg | NC1=NC=C(C=C1)I | C5H5IN2
reactant | diethyl ethoxymethylenemalonate | 0.92 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Diphenyl ether | 5 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate | 251 mg, 32% | IC=1C=CC=2N(C(C(=CN2)C(=O)OCC)=O)C1 | C11H9IN2O3
